US08124606B2
Methyl 6-oxo-5,6-dihydropyrido[3,2-e]pyrrolo[1,2-a]pyrazine-3-carboxylate (2.0 g, 8.22 mmol) was suspended in THF (Volume: 27.4 ml) under nitrogen atmosphere and cooled to 0° C. Sodium hydride (0.658 g, 16.45 mmol) was added in several portions over 7 min. The reaction mixture was stirred at 0° C. for 10 min, at room temperature for 20 min and cooled to below −50° C. Lithium aluminum hydride (7.40 ml, 14.80 mmol) was added over the period of 5 min and the reaction was kept at a temperature between −30 and −20° C. for 1 h. The mixture was cooled to below −40° C. and MeOH (6 mL) was added. Water (5 mL) was added and then more MeOH (50 mL). The reaction mixture was stirred at rt for 10 min. The resulting precipitate was filtered, suspended in MeOH (100 mL) and filtered again. The solid was suspended with heating overnight in MeOH:DCM (1:1, 200 mL) and filtered hot. This solid was dissolved in MeOH/DCM (100 mL, 3:1) and loaded onto silica gel (12 g) then purified by flash column chromatography on silica gel (220 g SiO2, gradient DCM:MeOH 100:1-85:15) to give 3-(hydroxymethyl)pyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (854 mg, 3.97 mmol, 48.3% yield) as a white solid. 1H NMR (DMSO-d6) δ 11.36 (br. s., 1H), 8.14 (d, J=1.8 Hz, 1H), 8.10 (dd, J=2.8, 1.5 Hz, 1H), 7.61-7.66 (m, 1H), 7.09 (dd, J=3.8, 1.5 Hz, 1H), 6.71 (dd, J=3.7, 2.9 Hz, 1H), 5.42 (br. s., 1H), 4.53-4.64 (m, 2H). [M+H] calc'd for C11H9N3O2, 216; found, 216.

reactant | Methyl 6-oxo-5,6-dihydropyrido[3,2-e]pyrrolo[1,2-a]pyrazine-3-carboxylate | 8.22 mmol, 2.0 g | O=C1C=2N(C3=C(N1)C=C(C=N3)C(=O)OC)C=CC2 | C12H9N3O3
reactant | Sodium hydride | 16.45 mmol, 0.658 g | [H-].[Na+]
reactant | Lithium aluminum hydride | 14.80 mmol, 7.40 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 27.4 ml | C1CCOC1 | C4H8O
solvent | MeOH | 50 mL | CO | CH4O
solvent | Water | 5 mL | O | H2O
solvent | MeOH | 6 mL | CO | CH4O
product | 3-(hydroxymethyl)pyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 3.97 mmol, 854 mg, 48.3% yield | OCC1=CC=2NC(C=3N(C2N=C1)C=CC3)=O | C11H9N3O2
